US04792547
N-(1H-5-Tetrazolyl)pyrazine-2-carboxamide
To a suspension of 1.50 g of pyrazine-2-carboxylic acid in 50 ml of tetrahydrofuran, 1.85 ml of triethylamine and 1.27 ml of ethyl chlorocarbonate were added dropwise successively at 0° C. under stirring. After stirring for 30 minutes at 0° C., 1.35 g of 5-amino-1H-tetrazole was added to the mixture, and the reaction mixture was stirred for 28.5 hours at room temperature. The precipitate was collected by filtration, and washed with dilute hydrochloric acid affording 2.05 g as colorless crystals, which was recrystalized from dimethylsulfoxide giving colorless crystals, m.p. 291°-296 ° C. (decomp.).

reactant | pyrazine-2-carboxylic acid | 1.50 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | 5-amino-1H-tetrazole | 1.35 g | NC1=NN=NN1 | CH3N5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.85 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl chlorocarbonate | 1.27 ml | C(OCC)(=O)Cl | C3H5ClO2
product | N-(1H-5-Tetrazolyl)pyrazine-2-carboxamide | N1N=NN=C1NC(=O)C1=NC=CN=C1 | C6H5N7O
